US05164397
9.0 g (44.4 mmol) of 1-(2-cyclopropylphenyl)piperazine, 200 ml of dimethylformamide, 15 g (44.4 mmol) of 2-chloro-N-methyl-N-(triphenylmethyl)-ethanamine and 9 g of potassium carbonate are introduced into a 500-ml round bottom flask fitted with a condenser and placed under nitrogen and the mixture is heated to 96° C. for 6 h three times. The solvent is evaporated off, the residue is taken up with water and dichloromethane, the organic phase is separated off, is washed with water and is dried over sodium sulphate and the solvent is stripped off. 4.17 g of 2-[4-(2-cyclopropylphenyl)piperazin- 1-yl]-N-methyl-N-(triphenylmethyl)ethanamine are obtained in the form of oil, which is dissolved in 200 ml of methanol, gaseous hydrochloric acid is bubbled through it for 10 min, the mixture is concentrated, is allowed to stand for 2 days and the precipitate is separated off by filtration. 2.94 g of compound are obtained.

reactant | 1-(2-cyclopropylphenyl)piperazine | 44.4 mmol, 9.0 g | C1(CC1)C1=C(C=CC=C1)N1CCNCC1 | C13H18N2
reactant | 2-chloro-N-methyl-N-(triphenylmethyl)-ethanamine | 44.4 mmol, 15 g | ClCCN(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C22H22ClN
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-[4-(2-cyclopropylphenyl)piperazin- 1-yl]-N-methyl-N-(triphenylmethyl)ethanamine | 4.17 g | C1(CC1)C1=C(C=CC=C1)N1CCN(CC1)CCN(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C35H39N3
